US08084623B2
A solution of 2-(5,6-dichloro-pyridine-2-carbonyl)-2-propyl-pyrrolidine-1-carboxylic acid tert-butyl ester (0.280 g, 0.725 mmol) in 1N HCl in MeOH (3 mL) was stirred at ambient temperature under nitrogen for 20 hours. The reaction mixture was concentrated in vacuo and the resulting residue was purified by chromatography (silica, 0 to 30% MeOH in DCM) to yield (5,6-dichloro-pyridin-2-yl)-(2-propyl-pyrrolidin-2-yl)-methanone (0.167 g, 0.522 mmol, 72%) as a yellow solid and as a monohydrochloride salt, MS=287 [M+H]+.

reactant | 2-(5,6-dichloro-pyridine-2-carbonyl)-2-propyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.725 mmol, 0.280 g | C(C)(C)(C)OC(=O)N1C(CCC1)(CCC)C(=O)C1=NC(=C(C=C1)Cl)Cl | C18H24Cl2N2O3
solvent | HCl | 1N | Cl | ClH
solvent | MeOH | 3 mL | CO | CH4O
product | (5,6-dichloro-pyridin-2-yl)-(2-propyl-pyrrolidin-2-yl)-methanone | 0.522 mmol, 0.167 g, 72% | ClC=1C=CC(=NC1Cl)C(=O)C1(NCCC1)CCC | C13H16Cl2N2O
